US07750186B2
Step 1: N-[4-fluoro-2-(3-hydroxy-3-methylbut-1-yn-1-yl)phenyl]acetamide
0.32 g (1.2 mmol, purity 99%) triphenylphosphine, 0.085 g (0.12 mmol, purity 99%) bis-triphenylphosphine palladium dichloride, and 0.14 g (0.72 mmol, purity 98%) copper(I)iodide are added to a mixture of 56.8 g (0.24 mol, purity 98%) N-(2-bromo-4-fluorophenyl)acetamide, 30.9 g (0.264 mol, purity 98%) 2-methylbut-3-yn-2-ol and 121.4 g (1.2 mol) triethylamine and the mixture is heated for 6 hours while stirring at 85° C. The surplus triethylamine is distilled off in a vacuum, approximately 170 ml toluene is added, the same quantity of water is added, and the phases are separated at ˜70° C.

reactant | triphenylphosphine | 1.2 mmol, 0.32 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-(2-bromo-4-fluorophenyl)acetamide | 0.24 mol, 56.8 g | BrC1=C(C=CC(=C1)F)NC(C)=O | C8H7BrFNO
reactant | 2-methylbut-3-yn-2-ol | 0.264 mol, 30.9 g | CC(C)(C#C)O | C5H8O
reactant | triethylamine | 1.2 mol, 121.4 g | C(C)N(CC)CC | C6H15N
catalyst | copper(I)iodide | 0.72 mmol, 0.14 g | [Cu]I
product | N-[4-fluoro-2-(3-hydroxy-3-methylbut-1-yn-1-yl)phenyl]acetamide | FC1=CC(=C(C=C1)NC(C)=O)C#CC(C)(C)O | C13H14FNO2
